US08134001B2
Preparation of intermediate 7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid tert-
To a stirred solution of 3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (Aldrich, 15.99 g, 87.28 mmol) in methylene chloride (600 mL) at 0° C., mCPBA (Aldrich, 29.4 g, 77%, 131 mmol) was added and the mixture was stirred overnight. The reaction was quenched with 10% Na2S2O3 and the organic layer was separated and washed with 5% sodium carbonate, brine and water and dried over sodium sulfate and concentrated to give a light yellow oil, which was chromatographied (10% EtOAc/Hexane) to yield a colorless oil. 14.93 g. The compound was used directly for the next step.

reactant | 3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 87.28 mmol, 15.99 g | C(C)(C)(C)OC(=O)N1CCC=CC1 | C10H17NO2
reactant | mCPBA | 131 mmol, 29.4 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
product | 7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid | C12CN(CCC2O1)C(=O)O | C6H9NO3
